US05610161
5M Hydrochloric acid (200 ml) was added slowly to a solution of 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene (98 g) in ether (1 l) and the mixture was stirred at ambient temperature for 30 minutes. The resulting solid was collected by filtration and washed with cold water followed by dichloromethane to give an off-white solid. The process was repeated using the remainder of 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene to give further off-white solid. The combined solids were stirred in dichloromethane (1 l) for 1 hour, collected by filtration, washed with dichloromethane (200 ml) and dried in vacuo to give 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride as an off-white solid. Yield 224.3 g, mp >300° C.

reactant | Hydrochloric acid | 5M, 200 ml | Cl | ClH
reactant | 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene | 98 g | ClC1=CC=C(C=C1)C1=CCCNC12CCCCC2 | C16H20ClN
solvent | ether | 1 l | CCOCC | C4H10O
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
product | 5-(4-chlorophenyl)-1-azaspiro[5.5]undec-4-ene hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CCCNC12CCCCC2 | InChI=1S/C16H20ClN.ClH/c17-14-8-6-13(7-9-14)15-5-4-12-18-16(15)10-2-1-3-11-16;/h5-9,18H,1-4,10-12H2;1H
